* Z:\mnt\design.r\spice\examples\1362.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 909
V3 IN 0 AC 1
C1 N002 N004 47p
R3 N004 N001 2.67K
C2 N001 0 220p
C3 OUT N005 22p
R5 N005 N003 2.21K
R6 N003 N002 1.1K
C4 N003 0 470p
R4 N001 IN 909
R2 OUT N003 1.1K
XU1 0 N004 +V -V N002 LT1360
XU2 0 N005 +V -V OUT LT1360
.ac oct 10 10K 10Meg
* 1MHz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
